delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 29.987331
Rb B C 29.964191
Rc C A 29.533687
Rload B 0 29.421518
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
